2142-08-31 10:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Stable overnight, Febrile
 MIDLINE - START [**2142-8-31**] 12:00 AM
 FEVER - 102.8
F - [**2142-8-30**] 11:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2142-8-31**] 01:00 AM
   Ciprofloxacin - [**2142-8-31**] 01:30 AM
   Metronidazole - [**2142-8-31**] 02:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-8-31**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.7
C (98.1
   HR: 88 (74 - 91) bpm
   BP: 114/62(74) {83/46(48) - 114/62(74)} mmHg
   RR: 17 (17 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                      8 mL
                                                                    457 mL
   PO:
             TF:
   IVF:
                                                                      8 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    320 mL
   Urine:
   320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      8 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 345 (345 - 345) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216 K/uL
   9.6 g/dL
   141 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   67 mg/dL
   116 mEq/L
   148 mEq/L
   30.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2142-8-30**]  10:15 PM
                             [**2142-8-30**]  10:18 PM
                             [**2142-8-31**]  05:18 AM
   WBC
   10.3
   9.6
   Hct
   30.3
   32
   30.3
   Plt
   219
   216
   Cr
   1.4
   TropT
   0.24
   Glucose
   148
   141
   Other labs: PT / PTT / INR:17.4/45.0/1.6, CK / CKMB /
   Troponin-T:49/4/0.24, ALT / AST:38/66, Alk Phos / T Bili:153/0.8,
   Differential-Neuts:81.0 %, Lymph:13.1 %, Mono:5.4 %, Eos:0.0 %, Lactic
   Acid:1.6 mmol/L, LDH:348 IU/L, Mg++:2.4 mg/dL
   Assessment and Plan
   This is an 85 year-old female with right sided heart failure, pulmonary
   HTN, atrial fib, rheumatic heart disease s/p mechanical MVR, HTN, who
   presents with fevers and hypotension.
   .
   # Sepsis: Fevers, leukocytosis, and mild hypotension suggestive of
   SIRS.  Pseudomonas in sputum culture is likely culpret.  Potentially
   developing PNA in RLL.   Possible seizure at rehab likely from SIRS,
   but could also suggest a CNS infection.  Family does not want LP and
   even if, INR elevation makes LP dangerous.
   - Vanc/cefepime for coverage of bacteremia and/or CNS infection.  Cipro
   for double coverage of pseudomonas. Will continue for 72 hours, will
   follow fever curves, signs of infection and culture results
   - contact [**Name (NI) **] for pseudomonas sensitivities in AM
   - IVF prn MAP > 60
   - consider levophed as needed through midline
   - no LP or abdominal imaging per family request
   - blood, urine, sputum cultures, urine legionella pending
   .
   # Seizure: Patient with longstanding history of seizures but had been
   quiescent.  Recently decreased keppra dosing for trough of 40 (range
   [**4-23**]).  Unresponsiveness likely toxic metabolic, but possibly status.
   Pt had possible seizure history on EEG. Will have electroneurologist
   read.
   - Ativan bolus, load with fosphenytoin
   - Consult neurology- await recs
   - MRI of head after okay from family
   - keppra level
   - EEG to r/o seizure - f/u read
   .
   # Chronic respiratory failure:  Respiratory alkalosis with good
   oxygenation.
   - currently stable
   .
   # EKG changes: Lateral ST depressions likely suggestive of demand
   ischemia, although ischemic event also possible.  Territory consistant
   with known ischemic disease.
   - trend cardiac enzymes
   - ASA, statin
   - beta-blocker as tolerated by pressures.
   - EKG in AM
   - Dig levels
   .
   # Afib:
   - anticoagulation with coumadin.
   - add back beta-blocker as tolerated.
   .
   # Pressure ulcers:
   wound care.
   .
   # Acute renal failure: Likely pre-renal in setting of sepsis.
   - IVF to urine output and BP goals
   - urine lytes
   .
   # Diabetes: on insulin sliding scale at home
   - HISS
   .
   # Anemia: Baseline Hce 25-29, Hct 35 on admission, suggesting patient
   is dry.
   - continue to trend with hydration
   .
   # Mechanical AVR: continue anticoagulation with coumadin
   .
   # FEN: replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: midline, right AC, and new 20G in left forarm.
   - central line or arterial line are ok per family.
   .
   # LFT abnormalities: mild, possibly related to hypoperfusion.
   - continue to trend.
   .
   # Code: DNR  No chest compressions or LP.  Lines and pressors ok.
   .
   # Communication: Daughter-in-law's number [**Telephone/Fax (1) 7611**]; Son [**Name (NI) **] [**Known lastname **]
   [**Telephone/Fax (1) 7612**] / dr [**Last Name (STitle) 7613**] [**Telephone/Fax (1) 7614**] [**Hospital **] rehab [**Telephone/Fax (1) 7614**].
   - need to update family, discuss goals of care for hospitalization
   .
   # Disposition: pending above
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-8-30**] 11:07 PM
   Midline - [**2142-8-31**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2142-09-01 08:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2142-8-31**] 08:00 AM
 EEG - At [**2142-8-31**] 08:24 AM
 EKG - At [**2142-8-31**] 10:55 PM
   Dig level x2 ~2.5, EKG suggestive of toxicity, dig held. Around 11 pm
   started flipping in/out of afib, HR ranging 100-120s, BP, temp stable
   throughout. EKG showed afib. Gave 2.5mg IV lopressor, consider 12.5mg
   lopressor daily tomorrow.
   Per neuro keppra dc'd, currently on dilantin, level pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2142-8-31**] 09:35 PM
   Ciprofloxacin - [**2142-9-1**] 12:00 AM
   Metronidazole - [**2142-9-1**] 12:24 AM
   Cefipime - [**2142-9-1**] 02:24 AM
   Ampicillin - [**2142-9-1**] 02:25 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2142-8-31**] 10:30 AM
   Heparin Sodium (Prophylaxis) - [**2142-8-31**] 09:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-1**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 94 (79 - 106) bpm
   BP: 98/45(59) {87/35(48) - 117/72(88)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                    990 mL
                                                                    590 mL
   PO:
             TF:
   IVF:
                                                                    990 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    650 mL
   Urine:
                                                                    850 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    140 mL
                                                                    -61 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 335 (335 - 373) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 69
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 4.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   9.9 g/dL
   108 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.5 mEq/L
   70 mg/dL
   117 mEq/L
   149 mEq/L
   30.2 %
   12.9 K/uL
        [image002.jpg]
                             [**2142-8-30**]  10:15 PM
                             [**2142-8-30**]  10:18 PM
                             [**2142-8-31**]  05:18 AM
                             [**2142-8-31**]  01:50 PM
                             [**2142-9-1**]  03:04 AM
   WBC
   10.3
   9.6
   12.9
   Hct
   30.3
   32
   30.3
   30.2
   Plt
   [**Telephone/Fax (3) 7648**]
   Cr
   1.4
   1.2
   TropT
   0.24
   0.21
   Glucose
   148
   141
   108
   Other labs: PT / PTT / INR:21.9/47.0/2.1, CK / CKMB /
   Troponin-T:39/4/0.21, ALT / AST:40/60, Alk Phos / T Bili:142/0.6,
   Differential-Neuts:88.4 %, Lymph:6.8 %, Mono:3.4 %, Eos:1.0 %, Lactic
   Acid:1.6 mmol/L, LDH:342 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:5.7
   mg/dL
   Imaging: CXR [**8-31**]: ? RLL PNA vs atelectasis
   Microbiology: [**8-31**] legionella neg
   [**8-31**] C diff neg
   Bcx [**8-30**] pending
   Ucx [**8-30**] neg
   Sputum cx [**8-30**]  gram negative rods
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   EKG changes
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is an 85 year-old female with right sided heart failure, pulmonary
   HTN, atrial fib, rheumatic heart disease s/p mechanical MVR, HTN, who
   presents with fevers and hypotension.
   # Sepsis: Fevers, leukocytosis, and mild hypotension suggestive of
   SIRS.  Pseudomonas in sputum culture is likely culprit.  Potentially
   developing PNA in RLL.   Possible seizure at rehab likely from SIRS,
   but could also suggest a CNS infection.  Family does not want LP.
   - Cefepime/Cipro/Flagyl d3 (started [**8-30**]) for coverage of bacteremia
   and/or CNS infection.  Cipro for double coverage of pseudomonas. Will
   continue for 72 hours.
   - checking today for fever, signs of infection and culture results. D/C
   abx if neg.
   - acyclovir started [**8-31**]
   - ampicillin started [**8-31**], d/c since legionella neg
   - contact [**Name (NI) **] for pseudomonas sensitivities in AM
   - IVF prn MAP > 60
   - consider levophed as needed through midline
   - no LP or abdominal imaging per family request
   - blood, urine, sputum cultures.
   # Seizure: Patient with longstanding history of seizures but had been
   quiescent.  Recently decreased keppra dosing for trough of 40 (range
   [**4-23**]).  Unresponsiveness likely toxic metabolic, but possibly status.
   Pt had possible seizure history on EEG. Will have electroneurologist
   read.
   - Ativan bolus, load with fosphenytoin
   - Consult neurology- await recs
   - MRI of head after okay from family
   - keppra level
   - EEG monitoring currently, per neuro, needs seizure free period >24
   hours before DC monitoring. After dc EEG, MRI to assess for
   anoxic/ischemic injury.
   # Chronic respiratory failure:  Respiratory alkalosis with good
   oxygenation.
   - currently stable
   # EKG changes: Trops trending down (0.21, 0.24, 0.29). CXR, EKG:
   downsloping, 3mm STD in V4-V6, inf TWI, new from prior. Lateral ST
   depressions likely suggestive of demand ischemia, although ischemic
   event also possible.  Territory consistant with known ischemic disease.
   - trend cardiac enzymes
   - ASA, statin
   - beta-blocker as tolerated by pressures.
   - EKG in AM
   - Dig levels
   # Afib:
   - anticoagulation with coumadin.
   - add back beta-blocker as tolerated.
   # Pressure ulcers:
   - c/s wound care.
   # Acute renal failure: Likely pre-renal in setting of sepsis.
   - IVF to uop >30cc/hr and maps >60.
   - urine lytes
   # Diabetes: on insulin sliding scale at home
   - HISS
   # Anemia: Baseline Hce 25-29, Hct 35 on admission, suggesting patient
   is dry.
   - continue to trend with hydration
   # Mechanical AVR: continue anticoagulation with coumadin
   # LFT abnormalities: mild, possibly related to hypoperfusion.
   - continue to trend.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2142-8-30**] 11:07 PM
   Midline - [**2142-8-31**] 12:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Daughter-in-law's number [**Telephone/Fax (1) 7611**]; Son
   [**Name (NI) **] [**Known lastname **] [**Telephone/Fax (1) 7612**] / dr [**Last Name (STitle) 7613**] [**Telephone/Fax (1) 7614**] [**Hospital **] rehab [**Telephone/Fax (1) 7649**].
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2142-09-02 06:54:00 Physician Resident Progress Note
Chief Complaint: This is an 85 year-old female with right sided heart
   failure, pulmonary HTN, atrial fib, rheumatic heart disease s/p
   mechanical MVR, HTN, who presents with fevers and hypotension and
   nonconvulsive seizures.
   24 Hour Events:
   TFs restarted, IVF given and UOP/BP picked up.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-9-1**] 09:00 AM
   Acyclovir - [**2142-9-1**] 10:32 PM
   Ciprofloxacin - [**2142-9-2**] 12:06 AM
   Metronidazole - [**2142-9-2**] 12:06 AM
   Ampicillin - [**2142-9-2**] 02:00 AM
   Cefipime - [**2142-9-2**] 02:16 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-2**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 92 (68 - 100) bpm
   BP: 97/44(57) {85/36(50) - 119/59(71)} mmHg
   RR: 35 (20 - 39) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  3,199 mL
                                                                  1,167 mL
   PO:
             TF:
                                                                    249 mL
                                                                    201 mL
   IVF:
                                                                  2,590 mL
                                                                    517 mL
   Blood products:
   Total out:
                                                                  1,203 mL
                                                                    250 mL
   Urine:
                                                                  1,203 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,996 mL
                                                                    917 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 290 (280 - 360) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   228 K/uL
   8.8 g/dL
   138 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.6 mEq/L
   59 mg/dL
   118 mEq/L
   148 mEq/L
   28.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2142-8-30**]  10:15 PM
                             [**2142-8-30**]  10:18 PM
                             [**2142-8-31**]  05:18 AM
                             [**2142-8-31**]  01:50 PM
                             [**2142-9-1**]  03:04 AM
                             [**2142-9-1**]  05:23 PM
                             [**2142-9-2**]  03:51 AM
                             [**2142-9-2**]  05:40 AM
   WBC
   10.3
   9.6
   12.9
   10.3
   10.3
   Hct
   30.3
   32
   30.3
   30.2
   26.9
   28.0
   Plt
   [**Telephone/Fax (3) 7656**]34
   228
   Cr
   1.4
   1.2
   1.2
   1.1
   TropT
   0.24
   0.21
   Glucose
   148
   141
   108
   117
   138
   Other labs: PT / PTT / INR:46.6/43.5/5.0, CK / CKMB /
   Troponin-T:39/4/0.21, ALT / AST:40/60, Alk Phos / T Bili:142/0.6,
   Differential-Neuts:84.0 %, Lymph:9.0 %, Mono:3.5 %, Eos:3.1 %, Lactic
   Acid:1.6 mmol/L, LDH:342 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   This is an 85 year-old female with right sided heart failure, pulmonary
   HTN, atrial fib, rheumatic heart disease s/p mechanical MVR, HTN, who
   presents with fevers and hypotension.
   # Sepsis: Fevers, leukocytosis, and mild hypotension suggestive of
   SIRS.  Pseudomonas in sputum culture is likely culprit.  Potentially
   developing PNA in RLL.   Possible seizure at rehab likely from SIRS,
   but could also suggest a CNS infection.  Family does not want LP.
   - Cefepime d4 (started [**8-30**]) for coverage of bacteremia and/or CNS
   infection.
   - D/C cipro and flagyl
   - checking today for fever, signs of infection and following culture
   results.
   - acyclovir started [**8-31**]
   - ampicillin started [**8-31**]
   - IVF prn MAP > 60 (use LRS)
   - consider levophed as needed through midline
   - no LP or abdominal imaging per family request
   - blood, urine, sputum cultures.
   # Seizure: Patient with longstanding history of seizures but had been
   quiescent.  Recently decreased keppra dosing for trough of 40 (range
   [**4-23**]).  Unresponsiveness likely toxic metabolic, but possibly status.
   Pt had possible seizure history on EEG. Will have electroneurologist
   read.
   - Ativan bolus, loaded with fosphenytoin, continue phenytoin
   - D/C
ed keppra
   - Consult neurology- continue video EEG for seizure free 24 hours, cont
   dilantin goal range 15-20, d/c keppra, ativan for breakthrough
   seizures, want MRI of head, full course of abx for meningitis
   - No MRI of head at this time, will not change treatment
   # Coagulopathy: INR 5.3
   - Hold coumadin, goal INR 3.0
   - D/C sc heparin
   # Chronic respiratory failure:  Respiratory alkalosis with good
   oxygenation.
   - currently stable
   - no abg checks
   # EKG changes: Trops trending down (0.21, 0.24, 0.29). CXR, EKG:
   downsloping, 3mm STD in V4-V6, inf TWI, new from prior. Lateral ST
   depressions likely suggestive of demand ischemia, although ischemic
   event also possible.  Territory consistant with known ischemic disease.
   - stop trending CE, have been trending down
   - ASA, statin
   - beta-blocker as tolerated by pressures.
   - Dig levels
 hold dig, 2.1 level is high
   # Afib:
   - anticoagulation with coumadin, hold today.
   - add back beta-blocker as tolerated.
   # Pressure ulcers:
   - c/s wound care.
   # Acute renal failure: Likely pre-renal in setting of sepsis.
   - IVF (LRS) to uop >30cc/hr and maps >60.
   # Hypernatremia:
   - D5 if need to correct
   - LRS for resuscitation
   # Diabetes: on insulin sliding scale at home
   - HISS
   # Anemia: Baseline Hce 25-29, Hct 35 on admission, suggesting patient
   is dry.
   - continue to trend with hydration
   # Mechanical AVR: continue anticoagulation with coumadin
   # LFT abnormalities: mild, possibly related to hypoperfusion.
   - continue to trend.
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   EKG changes
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2142-9-1**] 03:43 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2142-8-30**] 11:07 PM
   Midline - [**2142-8-31**] 12:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2142-09-07 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   EEG showed continuing to seize intermittently, subclinical, no ativan
   given. Dilantin therapeutic level but seizing through. Per neuro
   restarting Keppra.  EMG ordered.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-9-6**] 08:31 AM
   Cefipime - [**2142-9-7**] 12:00 AM
   Acyclovir - [**2142-9-7**] 02:09 AM
   Ampicillin - [**2142-9-7**] 02:12 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-7**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 114 (101 - 123) bpm
   BP: 96/57(63) {87/45(52) - 126/68(79)} mmHg
   RR: 23 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 59.1 kg (admission): 48.1 kg
   Height: 63 Inch
             Total In:
                                                                  2,828 mL
                                                                    658 mL
   PO:
             TF:
                                                                    330 mL
                                                                    253 mL
   IVF:
                                                                  2,158 mL
                                                                    345 mL
   Blood products:
   Total out:
                                                                  5,610 mL
                                                                  1,025 mL
   Urine:
                                                                  5,310 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,782 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 303 (246 - 313) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   159 K/uL
   9.4 g/dL
   128 mg/dL
   0.6 mg/dL
   32 mEq/L
    3.7
   19 mg/dL
   102 mEq/L
   140 mEq/L
   29.0 %
   10.2 K/uL
        [image002.jpg]
                             [**2142-9-4**]  02:18 AM
                             [**2142-9-4**]  05:40 AM
                             [**2142-9-4**]  09:27 AM
                             [**2142-9-4**]  04:32 PM
                             [**2142-9-4**]  07:40 PM
                             [**2142-9-5**]  05:33 AM
                             [**2142-9-5**]  04:01 PM
                             [**2142-9-6**]  02:52 AM
                             [**2142-9-6**]  02:28 PM
                             [**2142-9-7**]  03:44 AM
   WBC
   8.3
   9.4
   11.3
   14.4
   15.1
   10.2
   Hct
   24.6
   28.1
   29.2
   30.0
   29.0
   29.2
   31.7
   30.5
   31.8
   29.0
   Plt
   144
   157
   159
   183
   186
   159
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   Glucose
   125
   144
   149
   144
   128
   Other labs: PT / PTT / INR:14.5/99.0/1.3, CK / CKMB /
   Troponin-T:39/4/0.21, ALT / AST:22/40, Alk Phos / T Bili:161/0.7,
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:2.0
   %, Fibrinogen:237 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:346 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Imaging: MRI- pending final read
   Microbiology: Bcx, CSF cx pening
   Assessment and Plan
   85 y/o female with hx R-sided heart failure, pulmonary HTN, afib,
   rheumatic heart disease s/p MVR c mechanical valve, HTN, who presents
   with fever, hypotension, unresponsiveness.
   # Sepsis- Pseudomonas sputum initially thought culprit ,but grew oral
   flora . infectious source possible CNS, LP done, high opening pressure.
   LP showed pleiocytosis unable to r/o recent bacterial infection vs
   viral infection. Negative for cryptococcal antigen. Currently on
   meningitis doses . pending HSV PCR resullts.  Afebrile: has not spiked
   temp since the 10th.
   - f/u HSV PCR, fungal, bact LP cx results, blood Cx x1.
   -Continue acyclovir (400q12) Day [**9-7**]
   -ampicillin (2gq6),cefepime(2g q24) ( vancomycin (750q24), Day [**9-7**]
 SEIZURE, WITHOUT STATUS EPILEPTICUS- day 3 of EEG monitoring.  Read
   as intermittant Sz.  restarted Keppra.
   - watch for return of fever, change of MS
   - F/U MRI read
   - Check dilantin level qAM
   - Continue dilantin w/ goal between 15-20
   - Ativan for breakthrough seizure
 ANEMIA.  Possible bleed, vs hemolysis.  Bleed could be GIB or RP. Hct
   dropped to 19 o/n from 25, now 28 after 3u PRBC, 4u FFP.  Hemolysis w/u
   neg.  Stool guaiac positive. No RP bleed, stable hematoma in leg.  HCT
   stable at 30.5
   -Transfuse for HCT <25.
   - q12 Hct.
   -Continue to monitor coags.
 RESPIRATORY FAILURE, CHRONIC Currently stable. Trach in place, vent
   settings are : PEEP 5, FI02:40% RR in 30s.
   Vent AC at night, PSV during day.
   -check ABGs with clinical/vent changes
   - repeat trach mask trial as tolerated
 HYPOTENSION. Sleep cycle vs sepsis vs hypovolemia - improves with
   fluid. UOP adequate during hypotensive episode.
    Was on lasix boluses with inadequate diuresis, now on lasix drip
   titrated to UOP 200cc/hr. UOP 300cc/hr this am.
   BP's ranging 100-150s systolic on lasix. Hypotensive again to 99 in
   early am. Continue to monitor.
   -Give NS for UOP <30cc/hr
   -replete lytes
 ATRIAL FIBRILLATION (AFIB)/Mechanical valve:  Coumadin/SQ heparin
   held for INR 7.2 on [**9-3**], a.  Reversed with 3u FFP and vit K for LP
   [**9-4**]. Now  1.3.  Currently on 5mg Coumadin qd and heparin Gtt.
   Lopressor 12.5 TID, home dose is 50 [**Hospital1 **], still afib. Hold SBP<100. Dig
   home dose was 0.25, currently on 0.125 given hx toxicity.
   - PTT today 69.8, Titrate hepairn gtt to 40-60.
   - coumadin at 5mg today, follow INR (goal [**2-27**])
   -check coags in PM
R-sided heart failure + RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE,
   ARF)  BUN/Cr w/ UOP >30cc/hr.  Has been fluid responsive during stay.
   BUN/CR wnl 18/0.6 today. Continue to diurese with  lasix till bumps Cr.
   -Continue BUN/Cr and UOP monitoring.
   -give bolus with NS for UOP <30
 IMPAIRED SKIN INTEGRITY
   -f/u wound care recs
HYPERNATREMIA  Na stable: 141 today.
   - consider D5 for correction, and LR if resuscitation necessary
   ICU Care
   Nutrition:
   Comments: TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2142-8-31**] 12:00 AM
   PICC Line - [**2142-9-4**] 03:00 PM
   20 Gauge - [**2142-9-6**] 04:24 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Comm w/ Son
   [**Name (NI) 129**] status: DNR / DNI
   Disposition:ICU

2142-09-08 10:32:00 Physician Attending Progress Note
Chief Complaint: status epilepticus
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MRI: diffuse white matter changes, ventriculomegaly, old hemmorhage,
   chronic cerbellar infarcts, - no acute changes, diffuse patchy
   meningeal enhancement non spec and coudl even be due to lumbar puncture
   This AM appeared to be having recurrent SZ activity- given Ativan 2 mg
   IV
   EMG showed severe axonal generalized sensorimotor polyneuropathy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2142-9-7**] 02:09 AM
   Vancomycin - [**2142-9-7**] 08:00 AM
   Cefipime - [**2142-9-8**] 12:00 AM
   Ampicillin - [**2142-9-8**] 08:00 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2142-9-7**] 12:30 PM
   Coumadin (Warfarin) - [**2142-9-7**] 04:00 PM
   Fosphenytoin - [**2142-9-7**] 10:25 PM
   Lorazepam (Ativan) - [**2142-9-8**] 08:00 AM
   Other medications:
   ASA, Digoxin, Keppra 1000 q12
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: Seizure
   Flowsheet Data as of  [**2142-9-8**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 107 (75 - 121) bpm
   BP: 92/45(55) {92/45(55) - 123/71(79)} mmHg
   RR: 25 (18 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 56.4 kg (admission): 48.1 kg
   Height: 63 Inch
             Total In:
                                                                  3,216 mL
                                                                  1,181 mL
   PO:
             TF:
                                                                    825 mL
                                                                    305 mL
   IVF:
                                                                  1,431 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                  3,605 mL
                                                                  1,720 mL
   Urine:
                                                                  3,305 mL
                                                                  1,720 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -389 mL
                                                                   -539 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 220 (220 - 280) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 4.9 L/min
   Physical Examination
   Gen: lying in [**Doctor First Name **], unresposnisive, pupils 1 mm and min reactive
   HEENT: op clear dry muc mem
   CV: irreg irreg
   Chest: poor air movement no wheeze
   Abd: soft PEG
   Ext: 3+ weeping edema
   Neuro: unresponsive except to tactile stim, forced open eyes, limbs
   without rigisity, no nystagmus or clonus
   Labs / Radiology
   9.0 g/dL
   181 K/uL
   123 mg/dL
   0.9 mg/dL
   32 mEq/L
   4.0 mEq/L
   23 mg/dL
   107 mEq/L
   147 mEq/L
   27.6 %
   10.1 K/uL
        [image002.jpg]
                             [**2142-9-4**]  09:27 AM
                             [**2142-9-4**]  04:32 PM
                             [**2142-9-4**]  07:40 PM
                             [**2142-9-5**]  05:33 AM
                             [**2142-9-5**]  04:01 PM
                             [**2142-9-6**]  02:52 AM
                             [**2142-9-6**]  02:28 PM
                             [**2142-9-7**]  03:44 AM
                             [**2142-9-7**]  04:55 PM
                             [**2142-9-8**]  05:24 AM
   WBC
   9.4
   11.3
   14.4
   15.1
   10.2
   10.1
   Hct
   29.2
   30.0
   29.0
   29.2
   31.7
   30.5
   31.8
   29.0
   28.8
   27.6
   Plt
   157
   159
   183
   186
   159
   181
   Cr
   0.5
   0.6
   0.6
   0.6
   0.8
   0.9
   Glucose
   144
   149
   144
   128
   115
   123
   Other labs: PT / PTT / INR:16.3/106.6/1.4, CK / CKMB /
   Troponin-T:39/4/0.21, ALT / AST:22/40, Alk Phos / T Bili:161/0.7,
   Differential-Neuts:84.0 %, Band:0.0 %, Lymph:9.0 %, Mono:4.0 %, Eos:2.0
   %, Fibrinogen:237 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:346 IU/L, Ca++:10.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Status epilepticus: continuing Keppra and Dilatntin, follow up levels.,
   Ativan for breakthrough SZ, I need to speak to Neuro today to clarify
   their diagnosis(es) . Basically have acute onset of non convulsive
   status in a pt with a remote hx of SZ and head trauma - ? infectious, ?
   med related to keppra.  Continuing Rx for CNS infectious Day [**10-8**]
   empirically. Also etiology of her vbery abnomal EMG- is it related to
   seizures or attributable to her ICU stay and critical illness. It is
   important for us all to try to clarifgy as much as possible the
   etiology and prognosis of her severely depressed mental status in order
   to help her family make deciosn re long term care/
   Volume Overload: continues on lasix drip with goal 2 liters negative as
   BP can tolerate- much is in her interstitium
   Afib: on heparin,
   Resp Failure: stable on PSV
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: Nutren 2.0 (Full) - [**2142-9-7**] 05:35 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2142-8-31**] 12:00 AM
   PICC Line - [**2142-9-4**] 03:00 PM
   20 Gauge - [**2142-9-6**] 04:24 AM
   Prophylaxis:
   DVT: hep drip
   Stress ulcer: PPI
   VAP: HOB chlorhex,
   Communication:  will call son with update today
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2142-09-11 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continued intermittent seizures with subtherapeutic Depakote level
   (already on Dilantin, Keppra, Ativan) - neuro recommended Depakote
   bolus, 500 mg IV.
   Meeting with patient's son and daughter in law, with full MICU team and
   PCP (Dr. [**Last Name (STitle) 7766**].  Decision made to try increased Depakote treatment,
   see if any improvement with 4 meds.  If no improvement with treatment
   will likely consider palliative care.
   Evening labs showed creatinine increased to 1.2, with small but
   adequate UOP.  500 ml NS bolus given.  Vanco trough in PM remains
   elevated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-9-9**] 10:00 PM
   Cefipime - [**2142-9-11**] 12:26 AM
   Ampicillin - [**2142-9-11**] 02:25 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-9-11**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-11**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 101 (81 - 109) bpm
   BP: 101/49(62) {81/40(54) - 115/60(68)} mmHg
   RR: 20 (18 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.5 kg (admission): 48.1 kg
   Height: 63 Inch
             Total In:
                                                                  3,576 mL
                                                                    817 mL
   PO:
             TF:
                                                                    720 mL
                                                                    193 mL
   IVF:
                                                                  2,355 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    640 mL
   Urine:
                                                                    890 mL
                                                                    240 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  2,636 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 259 (227 - 297) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 5.8 L/min
   Physical Examination
   Somnolent,  unarousable, trach in place
   HEENT: pupils minimally reactive to light
   CVS: irregularly irregular,
   RESP: CTAB  through anterior chest
   Abd: +ve bs, soft, ND, no masses, no rebound, no guarding
   EXT: WWP, 2+ edema
   Labs / Radiology
   165 K/uL
   8.6 g/dL
   130 mg/dL
   1.2 mg/dL
   33 mEq/L
   3.4 mEq/L
   32 mg/dL
   95 mEq/L
   133 mEq/L
   31.1 %
   8.8 K/uL
        [image002.jpg]
                             [**2142-9-6**]  02:28 PM
                             [**2142-9-7**]  03:44 AM
                             [**2142-9-7**]  04:55 PM
                             [**2142-9-8**]  05:24 AM
                             [**2142-9-8**]  05:30 PM
                             [**2142-9-9**]  05:49 AM
                             [**2142-9-9**]  05:14 PM
                             [**2142-9-9**]  09:06 PM
                             [**2142-9-10**]  03:03 AM
                             [**2142-9-10**]  06:13 PM
   WBC
   15.1
   10.2
   10.1
   8.4
   8.8
   Hct
   31.8
   29.0
   28.8
   27.6
   27.0
   26.0
   31.1
   Plt
   186
   159
   181
   159
   165
   Cr
   0.6
   0.8
   0.9
   0.8
   0.9
   1.0
   1.0
   1.2
   TCO2
   38
   Glucose
   128
   115
   123
   120
   136
   135
   128
   130
   Other labs: PT / PTT / INR:25.2/71.0/2.4, CK / CKMB /
   Troponin-T:39/4/0.21, ALT / AST:17/27, Alk Phos / T Bili:167/0.5,
   Differential-Neuts:80.3 %, Band:0.0 %, Lymph:11.8 %, Mono:5.3 %,
   Eos:2.3 %, Fibrinogen:237 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6
   g/dL, LDH:259 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   EKG changes
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan
   85 y/o female with hx R-sided heart failure, pulmonary HTN, afib,
   rheumatic heart disease s/p MVR c mechanical valve, HTN,with distant
   seizure history, with new onset seizures 3 weeks ago,  with new seizure
   potentially secondary to CNS infection, exacerbated by ? drug fever on
   keppra initially.
 SEIZURE, WITHOUT STATUS EPILEPTICUS- day 6 of EEG monitoring. EEG y/d
   per neuron showed pt continues to seize through dilantin, keppra,
   depakote per neuro, with initial plan for ativan for breakthrough
   seizure but given frequency, now getting ativan q6. Head CT/MRI to date
   read as no acute change, chronic blood products from prior hemorrhage
   in left cerebellum, diffuse hyperintensities in white matter from small
   vessel disease.
   -Dilantin therapeutic with albumin correction,
   -Depakote subtherapeutic, touch base with neuro regarding redosing
   maintenance
   Daily dilanting, depakote levels.
   Continue EEG monitoring, f/u with neuron regarding efficacy quadruple
   regimen.
   -Continue keppa, ativan q6
   Afebrile for* hrs
Sepsis- Pseudomonas sputum initially thought culprit ,but grew oral
   flora . infectious source possible CNS, LP done, high opening pressure.
   LP showed pleiocytosis unable to r/o recent bacterial infection vs
   viral infection. Negative for cryptococcal antigen. Currently on
   meningitis doses . pending HSV PCR resullts.  Spiked yesterday to
   100.3, cultures sent.
   Afebrile currently  (had low grade fevers until *, without
   leukocytosis.
   On day 12 empiric meningitis coverage with Vanc, cefepime and
   ampicillin.
   CXR y/d read as ? focal consolidation LUL. Concern for possible VAP.
   Vanc levels have been supratherapeutic, consider double coverage with
   cipro.
    f/u pending blood Cx x2, wound Cx from catheter tip.
   panculture for T >101
   - ampicillin (2gq6),cefepime(2g q24), vancomycin (750q24), Day [**1-7**]
R-sided heart failure + RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE,
   ARF)  BUN/Cr w/ UOP >30cc/hr.  Has been fluid responsive during stay.
   CR remains at 1.0, edema slightly improved.
   Cr has been climbing, 1.0 today ,also vanc, renally excreted remains
   supratherapeutic despite being held since evening of 16th reflecting
   poor renal function.
   Interestingly depakote, dilantin, also renally excreted, subtherapeutic
   despite boluses.
   Fluid balance overall +ve doesn
t immediately look prerenal although
   she did have  bouts hypotension y/d in setting receiving antiepileptics
   y.d.* fluid responsive.  Lasix dc
d on * and 4 days out from receiving
   gadolinium.
   -Get UA/Urine lytes, pm lytes.
   Continue to monitor, fluid challenge as necessary, goal UOP >30.
   Consider fluid, levo for MAPs <60.
    SEIZURES:
   Per neuro, continuing to seize on quadruple therapy however dilantin,
   depakote levels remain subtherapeutic
   Goal dilantin 15-20 today she is 9.7
   Valproate is 20 (goal *)
 ANEMIA.  Possible bleed, vs hemolysis.  Bleed could be GIB or RP. Hct
   dropped to 19 o/n from 25, now 28 after 3u PRBC, 4u FFP.  Hemolysis w/u
   neg.  Stool guaiac positive. No RP bleed, stable hematoma in leg.  HCT
   slightly decreased from yesterday, 26 from 30.5 4 days ago.
   HCT today 25.7 from 31.1, stools remain
   - guaiac all stools
   - q12 HCT/
   Also INR of 2.9 and PTT 69.9 on  heparin.
   Dc heparin, Q 12 coags, goal INR [**2-27**].
   -Continue to monitor coags.
 RESPIRATORY FAILURE, CHRONIC Currently stable. Trach in place.
   -          Tolerating regimen PS during day, AC at night, has failed in
   past trials trach mask, however secondary as no goal in near feature to
   wean. Difficulty may be related to high bicarb, vs ? PNA with focal
   consolidation)
   -          Vent AC at night, PS 10 currently. Peep 5. and her Vt on
   that is 230s to 300. (Vt 24,
   -check ABGs with clinical/vent changes
 ATRIAL FIBRILLATION (AFIB)/Mechanical valve:  Coumadin/SQ heparin
   held for INR 7.2 on [**9-3**], a.  Reversed with 3u FFP and vit K for LP
   [**9-4**]. Now  1.3.  Currently on 5mg Coumadin qd (home dose 10mg) and
   heparin gtt.  Lopressor 12.5 TID, home dose is 50 [**Hospital1 **], still afib. Hold
   SBP<100. Dig home dose was 0.25, currently on 0.125 given hx toxicity.
   - dc heparin
 IMPAIRED SKIN INTEGRITY
   -stable, f/u wound care recs
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2142-9-10**] 04:39 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2142-9-4**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments: Son
   [**Name (NI) 129**] status: DNR (do not resuscitate)
   Disposition: ICU,48 hr trial quadruple [**Doctor Last Name 23**] antiepileptic therapy
   then potentially CMO  if fails.

2142-09-11 08:40:00 Physician Attending Progress Note
Chief Complaint: status epilepticus, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - STOP [**2142-9-10**] 04:37 PM
   Family meeting yesterday to discuss goals of care
   Persistent Sz activity
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2142-9-9**] 10:00 PM
   Cefipime - [**2142-9-11**] 12:26 AM
   Ampicillin - [**2142-9-11**] 02:25 AM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-9-11**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-9-11**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 109 (81 - 109) bpm
   BP: 99/47(61) {81/40(54) - 115/58(68)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 74.5 kg (admission): 48.1 kg
   Height: 63 Inch
             Total In:
                                                                  3,576 mL
                                                                    989 mL
   PO:
             TF:
                                                                    720 mL
                                                                    260 mL
   IVF:
                                                                  2,355 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    690 mL
   Urine:
                                                                    890 mL
                                                                    290 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  2,636 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 259 (227 - 297) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 5.8 L/min
   Physical Examination
   Gen: lying in bed, stirs to voice at times, pupils 2 mm and  reactive
   HEENT: op clear dry muc mem
   CV: irreg irreg
   Chest: poor air movement no wheeze
   Abd: soft PEG
   Ext: 2 + LE edema improving right hand edema
   Neuro:: ever so slightly more responsive to physical stim today but not
   sustained
   Labs / Radiology
   8.5 g/dL
   144 K/uL
   134 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.1 mEq/L
   33 mg/dL
   102 mEq/L
   140 mEq/L
   25.7 %
   7.2 K/uL
        [image002.jpg]
                             [**2142-9-7**]  03:44 AM
                             [**2142-9-7**]  04:55 PM
                             [**2142-9-8**]  05:24 AM
                             [**2142-9-8**]  05:30 PM
                             [**2142-9-9**]  05:49 AM
                             [**2142-9-9**]  05:14 PM
                             [**2142-9-9**]  09:06 PM
                             [**2142-9-10**]  03:03 AM
                             [**2142-9-10**]  06:13 PM
                             [**2142-9-11**]  04:47 AM
   WBC
   10.2
   10.1
   8.4
   8.8
   7.2
   Hct
   29.0
   28.8
   27.6
   27.0
   26.0
   31.1
   25.7
   Plt
   159
   181
   159
   165
   144
   Cr
   0.6
   0.8
   0.9
   0.8
   0.9
   1.0
   1.0
   1.2
   1.2
   TCO2
   38
   Glucose
   128
   115
   123
   120
   136
   135
   128
   130
   134
   Other labs: PT / PTT / INR:29.1/69.3/2.9, CK / CKMB /
   Troponin-T:39/4/0.21, ALT / AST:11/32, Alk Phos / T Bili:161/0.5,
   Differential-Neuts:79.7 %, Band:0.0 %, Lymph:11.8 %, Mono:5.4 %,
   Eos:2.8 %, Fibrinogen:237 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.5
   g/dL, LDH:299 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 VALVE REPLACEMENT, AORTIC MECHANICAL (AVR)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Status epilepticus: most recent EEG not status but ongoing SZ and
   abnormal background activity. Continuing Keppra and Dilantin,  Depakote
   and Ativan for breakthrough SZ. Next steps would be Ativan drip or
   Pentobarb coma but family does not want a pharmacologic coma. Hope ois
   Depakote will begin to decrease SZ but remains unclear
   Continue on Day [**1-7**] of Rx for CNS infection
 follow up final
   cultures
   Relative Hypotension: with rising Cr today may well be relatively
   hypovolemic, will volume challenge if drops UOP
   Afib: on heparin, and started on coumadin , now inr 2.9
 will d/c
   heparin and change coumadin to 2.5 watch  inr
   Resp Failure: stable on PSV 10/5
   Hand Edema: imrpving after d/c midline- could check US but already on
   hep coumadin
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2142-9-10**] 04:39 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2142-9-4**] 03:00 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with son and dtr in law- They plan to meet with
   Palliative Care Service today at 11:30.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 31